US04684648
A mixture of ethyl (2-bromo-4,5-difluorobenzoyl)acetate (52.0 g), ethyl orthoformate (36.6 g) and acetic anhydride (41.6 g) is heated at 150° C. for 2 hours. After the reaction, the reaction mixture is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (solvent, dichloromethane:n-hexane=2:1) to give ethyl 2-(2-bromo-4,5-difluorobenzoyl)-3-ethoxyacrylate (49 g).

reactant | ethyl (2-bromo-4,5-difluorobenzoyl)acetate | 52.0 g | BrC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)F)F | C11H9BrF2O3
reactant | ethyl orthoformate | 36.6 g | C(OCC)([O-])[O-]
reactant | acetic anhydride | 41.6 g | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl 2-(2-bromo-4,5-difluorobenzoyl)-3-ethoxyacrylate | 49 g | BrC1=C(C(=O)C(C(=O)OCC)=COCC)C=C(C(=C1)F)F | C14H13BrF2O4
